US07294644B2
1-(2-Hydroxy-cyclohexylmethyl)-2-methyl-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2-trifluoromethoxy-phenyl)-ethanone as compound of formula S, 2-aminomethyl-1-cyclohexanol as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 479.6 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2-trifluoromethoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC=C1)OC(F)(F)F | C9H6BrF3O2
reactant | 2-aminomethyl-1-cyclohexanol | NCC1C(CCCC1)O | C7H15NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 1-(2-Hydroxy-cyclohexylmethyl)-2-methyl-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC(F)(F)F)CC1C(CCCC1)O)C | C26H33F3N2O3
